US05055468
Methyl 9,10-Dihydro-9,10-ethanoanthracene-11-carboxylate
Anthracene (89.0 gm) was combined with methyl acrylate (51.5 gm) and xylenes (500 ml) in a Parr bomb and heated to 210° C. for 12 hours. The solvent was removed on a rotary evaporator and the residue was recrystallized from methanol to provide the product as a white solid (m=113-114° C.).

reactant | Anthracene | 89.0 gm | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
reactant | methyl acrylate | 51.5 gm | C(C=C)(=O)OC | C4H6O2
product | Methyl 9,10-Dihydro-9,10-ethanoanthracene-11-carboxylate | C1=CC=CC=2C3C4=CC=CC=C4C(C12)CC3C(=O)OC | C18H16O2
